US05583131
d) 1,1'-[2,3,5,6-Tetrafluoro-1,4-phenylenebis-(methylene)]-bis-1,4,8,11-tetraazacyclotetradecane
1,1'-[2,3,5,6-Tetrafluoro-1,4-phenylenebis-(methylene)]-bis-tris-(p-toluenesulfonyl)-1,4,8,11-tetraazacyclotetradecane (200 mg, 0.13 mmol) was dissolved in a mixture of acetic acid and hydrobromic acid (48%) in a ratio of approximately 3:2 by volume (10 ml) and heated to 100° C. for 24 hours during which time a white solid precipitated. The mixture was allowed to cool and the solid was filtered off and washed with acetic acid and ether and dried in vacuo giving a white solid identified by 1H NMR, FAB-MS and elemental analysis as 1,1'-[2,-3,5,6-tetra-fluoro-1,4-phenylene-bis-(methylene)]-bis-1,4,8,11-tetraazacyclo-tetradecane octahydrobromide dihydrate (65 mg, 40%).

reactant | 1,1'-[2,-3,5,6-tetra-fluoro-1,4-phenylene-bis-(methylene)]-bis-1,4,8,11-tetraazacyclo-tetradecane octahydrobromide dihydrate | 65 mg | O.O.Br.Br.Br.Br.Br.Br.Br.Br.FC1=C(C(=C(C(=C1F)CN1CCNCCCNCCNCCC1)F)F)CN1CCNCCCNCCNCCC1
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | Br | BrH
product | 1,1'-[2,3,5,6-Tetrafluoro-1,4-phenylenebis-(methylene)]-bis-1,4,8,11-tetraazacyclotetradecane | FC1=C(C(=C(C(=C1F)CN1CCNCCCNCCNCCC1)F)F)CN1CCNCCCNCCNCCC1 | C28H50F4N8
